US07279470B2
Methyl-phenyl-carbamic acid 5-(3,3-dimethyl-butyrylamino)-pyridin-2-yl ester
A solution of N-(6-hydroxy-pyridin-3-yl)-3,3-dimethyl-butyramide (0.42 g, 2.00 mmol), N-methyl-N-phenylcarbamoyl chloride (0.37 g, 2.20 mmol) and 1,4-diazabicyclo[2,2,2]octane (0.25 g, 2.20 mmol) in tetrahydrofuran (20 mL) was stirred at room temperature for 2.5 hours. Water was added and the solution was extracted three times with dichloromethane. The combined organic layers were dried over sodium sulphate, filtered and evaporated in vacuo. The residue was redissolved in ethyl acetate and the solution was filtered over a short pad of silicagel. Evaporation of the solvent and crystallisation of the solid from ethyl acetate:heptane yielded the title compound (0.54 g, 79% yield) as a white solid.

reactant | N-(6-hydroxy-pyridin-3-yl)-3,3-dimethyl-butyramide | 2.00 mmol, 0.42 g | OC1=CC=C(C=N1)NC(CC(C)(C)C)=O | C11H16N2O2
reactant | N-methyl-N-phenylcarbamoyl chloride | 2.20 mmol, 0.37 g | CN(C(=O)Cl)C1=CC=CC=C1 | C8H8ClNO
reactant | 1,4-diazabicyclo[2,2,2]octane | 2.20 mmol, 0.25 g | N12CCN(CC1)CC2 | C6H12N2
reactant | Water | O | H2O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | heptane | CCCCCCC | C7H16
product | Methyl-phenyl-carbamic acid 5-(3,3-dimethyl-butyrylamino)-pyridin-2-yl ester | 0.54 g, 79% yield | CC(CC(=O)NC=1C=CC(=NC1)OC(N(C1=CC=CC=C1)C)=O)(C)C | C19H23N3O3
